US07973039B2
Intermediate A5: 3-(3-methoxyphenyl)-2-propynal
To a solution of 3-(3-methoxyphenyl)prop-2-yn-1-ol (500 mg, 3.08 mmol) in anhydrous DCM (20 ml) under argon was added MnO2 (7.8 g, 90 mmol) portion wise over 2 h. The reaction mixture was stirred at rt for one additional hour. Then the reaction mixture was filtered and the solvent was removed under reduced pressure. Purification by flash chromatography on silica gel (cHex:EtOAc, gradient 9:1 to 4:1) gave 122 mg (25%) of the title compound as a yellow oil. HPLC, Rt: 2.9 min (purity: 99.9%). 1H NMR (CDCl3) δ: 9.43 (s, 1H), 7.32 (dd, J=8.3, 7.7 Hz, 1H), 7.22 (ddd, J=7.7, 1.4, 1.1 Hz, 1H), 7.12 (dd, J=2.6, 1.4 Hz, 1H), 7.05 (ddd, J=8.3, 2.6, 1.1 Hz, 1H), 3.83 (s, 3H).

reactant | 3-(3-methoxyphenyl)prop-2-yn-1-ol | 3.08 mmol, 500 mg | COC=1C=C(C=CC1)C#CCO | C10H10O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 90 mmol, 7.8 g | O=[Mn]=O
product | 3-(3-methoxyphenyl)-2-propynal | 122 mg, 25% | COC=1C=C(C=CC1)C#CC=O | C10H8O2
